US05519138
a) Ethyl 2-bromo-phenylacetate
43.0 g (0.2 mol) of DL-2-bromo-phenylacetic acid are dissolved in 400 ml of ethanol at ambient temperature with stirring. At 5°-10° C. 11.8 g (0.2 mol) of thionylchloride are slowly added dropwise whilst cooling with ice. After 12 hours at ambient temperature the solvent is distilled off and the residue is taken up in ethyl acetate. After extraction with saturated sodium bicarbonate solution and saturated saline solution the product is dried over sodium sulphate and evaporated down.

reactant | 2-bromo-phenylacetic acid | BrC1=C(C=CC=C1)CC(=O)O | C8H7BrO2
reactant | thionylchloride | 0.2 mol, 11.8 g | S(=O)(Cl)Cl | Cl2OS
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | Ethyl 2-bromo-phenylacetate | BrC1=C(C=CC=C1)CC(=O)OCC | C10H11BrO2
